************************************************************************
* auCdl Netlist:
* 
* Library Name:  Std_cells
* Top Cell Name: DFF
* View Name:     schematic
* Netlisted on:  Mar 27 17:02:25 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Std_cells
* Cell Name:    DFF
* View Name:    schematic
************************************************************************

.SUBCKT DFF CLK D OUT R
*.PININFO CLK:I D:I R:I OUT:O
MM27 net24 R net27 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM26 net27 net17 vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM23 net19 R net26 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM22 net26 net9 vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM19 net17 net2 net23 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM18 net23 net24 vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM15 net17 net1 net21 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM14 net21 net19 vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM11 net9 net1 net18 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM10 net18 net19 vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM9 OUT net17 vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM3 net9 net2 net6 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM2 net6 D vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM1 net2 net1 vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM0 net1 CLK vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM29 net24 R gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM28 net24 net17 gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM25 net19 R gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM24 net19 net9 gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM21 net25 net24 gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM20 net17 net1 net25 gnd! nmos_rvt w=108.00n l=20n nfin=4
MM17 net22 net19 gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM16 net17 net2 net22 gnd! nmos_rvt w=108.00n l=20n nfin=4
MM13 net20 net19 gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM12 net9 net2 net20 gnd! nmos_rvt w=108.00n l=20n nfin=4
MM8 OUT net17 gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM7 net13 D gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM6 net9 net1 net13 gnd! nmos_rvt w=108.00n l=20n nfin=4
MM5 net2 net1 gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM4 net1 CLK gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
.ENDS

